US06004984
Step 1D {2-[5-[2-(7-Azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester
To a suspension of 2-[3-(2-tert-butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid (856 mg in 8.0 mL methylene chloride) at 0° C. was added 310 mg of 1-hydroxybenzotriazole (HOBt)followed by 400 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) and the mixture stirred at low temperature for 90 minutes. At this time, a solution of 7-aza-bicyclo [2.2.1]heptane hydrochloride (632 mg in a mixture of 2.0 mL methylene chloride and 0.66 mL triethylamine) was added and the mixture warmed to room temperature. The reaction was quenched after 24 hours by dilution with methylene chloride and washing with half-saturated brine. The combined organics were dried over magnesium sulfate and the concentrate purified by flash chromatography on silica gel (hexane:ethyl acetate, 70:30; then 60:40; then 50:50; then 40:60) to give the title compound (736 mg).

reactant | 2-[3-(2-tert-butoxycarbonylaminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid | 8.0 mL, 856 mg | C(C)(C)(C)OC(=O)NCCC1=C(NC2=CC=C(C=C12)C(C(=O)O)(C)C)C1=CC(=CC(=C1)C)C | C27H34N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 400 mg | Cl.CN(CCCN=C=NCC)C
reactant | 7-aza-bicyclo [2.2.1]heptane hydrochloride | Cl.C12CCC(CC1)N2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.66 mL | C(C)N(CC)CC | C6H15N
product | {2-[5-[2-(7-Azabicyclo[2.2.1]hept-7-yl)-1,1-dimethyl-2-oxo-ethyl]-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}carbamic acid tert-butyl ester | 736 mg | C(C)(C)(C)OC(NCCC1=C(NC2=CC=C(C=C12)C(C(=O)N1C2CCC1CC2)(C)C)C2=CC(=CC(=C2)C)C)=O | C33H43N3O3
